US06114358
N-Boc-Pyr-OH (5 g, 23.45 mmol) was dissolved in MeOH (50 ml), and HCl in dioxane (4N, 30 ml) was added. After refluxing for 12 h, the solvent was removed in a rotary evaporator and H-Pyr-OMe hydrochloride was obtained as product. Yield: 3.84 g (100%).

reactant | N-Boc-Pyr-OH | 23.45 mmol, 5 g | N1([C@@H](CCC1=O)C(=O)O)C(=O)OC(C)(C)C | C10H15NO5
reactant | HCl | Cl | ClH
reactant | MeOH | 50 ml | CO | CH4O
solvent | dioxane | 4N, 30 ml | O1CCOCC1 | C4H8O2
product | H-Pyr-OMe hydrochloride | N1[C@@H](CCC1=O)C(=O)OC.Cl | InChI=1S/C6H9NO3.ClH/c1-10-6(9)4-2-3-5(8)7-4;/h4H,2-3H2,1H3,(H,7,8);1H/t4-;/m0./s1
